US07160906B2
2-[3-isopropyloxy-5-(2-fluorophenylsulfonylmethyl)benzoylamino]-5-pyridine Carboxylic Acid (Route 16)
Standard ester hydrolysis (2M NaOH/THF), as described in Example A, of methyl 2-[3-isopropyloxy-5-(2-fluorophenylsulfonyl) methyl benzoyl]aminopyridine-5-carboxylate gave the title compound as a pale yellow solid, 1H NMR δ (300 MHz, d6-DMSO): 1.12 (d, 6H); 4.58–4.66 (m, 1H); 4.79 (s, 2H); 6.98 (s, 1H); 7.30–7.41 (m, 2H); 7.43 (s, 1H); 7.48–7.63 (m, 2H); 7.72–7.81 (m, 1H); 8.30 (s, 2H); 8.86 (S, 1H); 11.08 (br s, 1H); m/z 473 (M+H)+, 471

reactant | NaOH THF | 2M | [OH-].[Na+].C1CCOC1
reactant | methyl 2-[3-isopropyloxy-5-(2-fluorophenylsulfonyl) methyl benzoyl]aminopyridine-5-carboxylate | C(C)(C)OC=1C=C(C(=O)NC2=NC=C(C=C2)C(=O)OC)C=C(C1)CS(=O)(=O)C1=C(C=CC=C1)F | C24H23FN2O6S
product | 2-[3-isopropyloxy-5-(2-fluorophenylsulfonylmethyl)benzoylamino]-5-pyridine Carboxylic Acid | C(C)(C)OC=1C=C(C(=O)NC2=NC=C(C=C2)C(=O)O)C=C(C1)CS(=O)(=O)C1=C(C=CC=C1)F | C23H21FN2O6S
